US05312815
In 260 ml of methylene chloride was dissolved 145.5 g (0.79 mol) of 1-(2,4-difluorophenyl)-2-methylpropan-1-one, and 134.2 g (0.84 mol) of bromine was slowly added dropwise thereto at 20° C. or lower. The mixture was warmed to room temperature and stirred for 1 hour. A saturated sodium chloride aqueous solution and a saturated sodium thiosulfate aqueous solution were added to the reaction mixture. The organic layer was separated, washed successively with a saturated sodium chloride aqueous solution, a saturated sodium hydrogencarbonate aqueous solution, and a saturated sodium chloride aqueous solution, and dried. The solvent was removed by distillation under reduced pressure to obtain 205.7 g (99%) of 2-bromo-1-(2,4-difluorophenyl)-2-methylpropan-1-one as a pale yellow oily substance.

reactant | 1-(2,4-difluorophenyl)-2-methylpropan-1-one | 0.79 mol, 145.5 g | FC1=C(C=CC(=C1)F)C(C(C)C)=O | C10H10F2O
reactant | bromine | 0.84 mol, 134.2 g | BrBr | Br2
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 260 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-(2,4-difluorophenyl)-2-methylpropan-1-one | 205.7 g, 99% | BrC(C(=O)C1=C(C=C(C=C1)F)F)(C)C | C10H9BrF2O
